US04766152
A solution of 25 g of hydroxylamine hydrochloride and 29.4 g of anhydrous sodium acetate in 100 ml of water is added dropwise at room temperature to a solution of 68.5 g of 4-phenoxyphenoxyacetaldehyde in 300 ml ethanol. After the slightly exothermic reaction has subsided, the mixture is stirred for 2 hours at reflux temperature. The mixture is then cooled to 0° C. and stirred for 3 hours at this temperature, whereupon the resultant oxime crystallises. The crystallised 4-phenoxyphenoxyacetaldehyde oxime is isolated by suction filtration, repeatedly washed thoroughly with water and dried in a vacuum cabinet at 40° C. Melting point: 102°-105° C.

reactant | hydroxylamine hydrochloride | 25 g | Cl.NO
reactant | sodium acetate | 29.4 g | C(C)(=O)[O-].[Na+]
reactant | 4-phenoxyphenoxyacetaldehyde | 68.5 g | O(C1=CC=CC=C1)C1=CC=C(OCC=O)C=C1 | C14H12O3
solvent | water | 100 ml | O | H2O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4-phenoxyphenoxyacetaldehyde oxime | O(C1=CC=CC=C1)C1=CC=C(OCC=NO)C=C1 | C14H13NO3
